US05387603
To a mixture of trifluoroacetic acid (0.2 ml) and methylene chloride (0.2! ml) was added a solution of 1-acetyl-5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide (40 mg) in methylene chloride (0.2 ml) with stirring under ice cooling, and the mixture was stirred at room temperature for 1.5 hours. To the reaction mixture was added a saturated aqueous sodium bicarbonate solution, and the mixture was extracted with methylene chloride. The extract was dried over anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on silica gel using a mixture of methylene chloride and methanol (10/1) as eluent to give 33 mg of 1-acetyl-5-[2-[2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide as an amorphous powder.

reactant | trifluoroacetic acid | 0.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-acetyl-5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide | 40 mg | C(C)(=O)N1CCC2=CC(=CC(=C12)C(=O)N)CC(C)N(C(=O)OC(C)(C)C)CCOC1=C(C=CC=C1)OCC | C29H39N3O6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 0.2 ml | C(Cl)Cl | CH2Cl2
product | 1-acetyl-5-[2-[2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide | 33 mg | C(C)(=O)N1CCC2=CC(=CC(=C12)C(=O)N)CC(C)NCCOC1=C(C=CC=C1)OCC | C24H31N3O4
